US06586630B1
(2) Synthesis of Fmoc-N-Me-Val-N-Me-Tyr(Bzl)—NH2
To a solution of N-Me-Tyr(Bzl)—NH2 (329 mg, 1.16 mmol) in THF (15 ml), Fmoc-N-Me-Val-OH (533 mg, 1.51 mmol), CMPI (415 mg, 1.62 mmol) and TEA (0.323 ml, 2.32 mmol) were added under cooling with ice, followed by stirring for 4 hours at room temperature. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and evaporated to remove the solvent under-reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=2:1) to give the titled compound (680 mg, 95%).

reactant | N-Me-Tyr(Bzl)—NH2 | 1.16 mmol, 329 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N)C | C17H20N2O2
reactant | Fmoc-N-Me-Val-OH | 1.51 mmol, 533 mg | N([C@@H](C(C)C)C(=O)O)(C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
reactant | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Fmoc-N-Me-Val-N-Me-Tyr(Bzl)—NH2 | 680 mg, 95% | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N)C)(C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H41N3O5
